US08710043B2
Step 2. (S)-4-(((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)benzoic Acid
To a solution of (S)-methyl 4-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)benzoate (105 mg, 0.225 mmol) and THF (2 mL):MeOH (1 mL) was added 1M LiOH (1 mL). The solution was stirred at room temperature. After 16 h, the reaction was diluted with water. The aqueous solution was acidified with 1 N HCl to a pH of 7 and extracted with EtOAc (3×15 mL). The combined EtOAc layers were dried over MgSO4 and concentrated in vacuo to give the title compound as a white solid. 1H NMR (300 MHz, MeOH-d4) δ ppm 8.49 (d, J=4.7 Hz, 1H), 8.06-8.15 (m, J=8.5 Hz, 2H), 7.89-8.00 (m, J=8.5 Hz, 2H), 7.64 (t, J=9.1 Hz, 1H), 7.31-7.51 (m, 4H), 6.70 (s, 1H). MS (ESI pos. ion) m/z: 453.0 (M+H).

reactant | (S)-methyl 4-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)benzoate | 0.225 mmol, 105 mg | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C22H15F5N2O4
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | LiOH | 1M, 1 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-4-(((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)benzoic Acid | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C1=CC=C(C(=O)O)C=C1 | C21H13F5N2O4
